US08809539B2
50 mL N,N-dimethylformamide, 5 g of 1-{4-[5-(2-fluorobiphenyl-4-yl)[1,2,4]oxadiazol-3-yl]benzyl}piperidine-4,4-dicarboxylic acid benzyl ester, 1.8 g of anhydrous potassium carbonate and 2.3 mL of 1-bromo-3,3-dimethylbutan-2-one are added into a 3 neck round bottomed flask. The reaction mixture is heated to 55-60° C. and stirred for 20-60 min. After completion of reaction, the mixture is cooled to 25-30° C. and 100 mL of ice water are added. The slurry is stirred at 25-30° C. for about 30 min and filtered. The product is washed with 50 mL demineralized water, then by 20 mL isopropyl alcohol and suck dried for about 30 mins. Finally the product is dried at 35-40° C. under vacuum to yield 1-{4-[5-(2-fluorobiphenyl-4-yl)[1,2,4]oxadiazol-3-yl]benzyl}piperidine-4,4-dicarboxylic acid benzyl ester 3,3-dimethyl-2-oxobutyl ester.

reactant | 1-{4-[5-(2-fluorobiphenyl-4-yl)[1,2,4]oxadiazol-3-yl]benzyl}piperidine-4,4-dicarboxylic acid benzyl ester | 5 g | C(C1=CC=CC=C1)OC(=O)C1(CCN(CC1)CC1=CC=C(C=C1)C1=NOC(=N1)C1=CC(=C(C=C1)C1=CC=CC=C1)F)C(=O)O | C35H30FN3O5
reactant | potassium carbonate | 1.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3,3-dimethylbutan-2-one | 2.3 mL | BrCC(C(C)(C)C)=O | C6H11BrO
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 1-{4-[5-(2-fluorobiphenyl-4-yl)[1,2,4]oxadiazol-3-yl]benzyl}piperidine-4,4-dicarboxylic acid benzyl ester 3,3-dimethyl-2-oxobutyl ester | CC(C(COC(=O)C1(CCN(CC1)CC1=CC=C(C=C1)C1=NOC(=N1)C1=CC(=C(C=C1)C1=CC=CC=C1)F)C(=O)OCC1=CC=CC=C1)=O)(C)C | C41H40FN3O6
